US03959322
Condense 2-propylcyclopentane-1,3-dione (13.1 g) in 0.12% methanolic potassium hydroxide solution (90 cc) with 6-m-methoxyphenylhex-1-en-3-one (19.0 g), to obtain crude 2-n-propyl-2-(6-m-methoxyphenyl-3-oxohexyl)cyclopentane-1,3-dione (25.5 g). Submit this Michael condensation product (23.4 g) to double cyclodehydration by heating with toluene-p-sulfonic acid, and distil the product at 200°/10-4 mm; crystallize the distillate from ethanol to obtain the tetracyclic diene ketone 13β-propyl-3-methoxygona-1,3,5(10),8,14-pentaen-17-one, m.p. 82°-84°; ultraviolet absorption peak at 310 mμ (ε24,700).

reactant | 2-propylcyclopentane-1,3-dione | 13.1 g | C(CC)C1C(CCC1=O)=O | C8H12O2
reactant | 6-m-methoxyphenylhex-1-en-3-one | 19.0 g | COC=1C=C(C=CC1)CCCC(C=C)=O | C13H16O2
solvent | potassium hydroxide | 90 cc | [OH-].[K+]
product | 2-n-propyl-2-(6-m-methoxyphenyl-3-oxohexyl)cyclopentane-1,3-dione | 25.5 g | C(CC)C1(C(CCC1=O)=O)CCC(CCCC1=CC(=CC=C1)OC)=O | C21H28O4
